US08492378B2
N′-acetyl-1-benzofuran-5-carbohydrazide
In the same manner as in Reference Example 5 and using 1-benzofuran-5-carboxylic acid instead of benzothiazole-6-carboxylic acid and acetohydrazide instead of 3-[3-(trifluoromethyl)phenyl]propanohydrazide, the title compound (yield 85%) was obtained as colorless crystals.

reactant | 1-benzofuran-5-carboxylic acid | O1C=CC2=C1C=CC(=C2)C(=O)O | C9H6O3
reactant | acetohydrazide | C(C)(=O)NN | C2H6N2O
product | N′-acetyl-1-benzofuran-5-carbohydrazide | yield 85% | C(C)(=O)NNC(=O)C=1C=CC2=C(C=CO2)C1 | C11H10N2O3
